US07678384B2
1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[methyl(vinyl)amino]-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile
To a solution of pyridine (0.186 g, 0.23 mmol) in dichloromethane (10 mL) was slowly added chromium (VI) oxide (0.119 g, 0.12 mmol) at room temperature under nitrogen. The resulting mixture was stirred at room temperature for 15 minutes before 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[(2-hydroxy-ethyl)(methyl)amino]-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile (0.200 g, 0.4 mmol) was introduced. The reaction mixture was allowed to stirr at room temperature for two additional hours. It was then concentrated to dryness and then diluted with diethyl ether. The mixture was then filtered through silica gel and then concentrated to afford a pale oil (0.04 g, 0.1 mmol). 19F NMR: −64.37, −80.74.

reactant | pyridine | 0.23 mmol, 0.186 g | N1=CC=CC=C1 | C5H5N
reactant | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[(2-hydroxy-ethyl)(methyl)amino]-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile | 0.4 mmol, 0.200 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N(C)CCO)S(=O)(=O)C(F)(F)F)C#N | C15H10Cl2F6N4O3S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | chromium (VI) oxide | 0.12 mmol, 0.119 g | [O-2].[Cr+6].[O-2].[O-2]
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[methyl(vinyl)amino]-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile | 0.1 mmol, 0.04 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N(C=C)C)S(=O)(=O)C(F)(F)F)C#N | C15H8Cl2F6N4O2S
